US07345067B2
15.1) (4-tert-Butoxycarbonylamino-2,6-dimethyl-phenoxy)-acetic acid ethyl ester
4.35 g (19.48 mmol) of (4-amino-2,6-dimethyl-phenoxy)-acetic acid ethyl ester was dissolved in 22 ml of THF, treated with 5.103 g (1.2 eq.) of di-tert-butyl dicarbonate, and refluxed for 1 h. After cooling, the reaction mixture was poured onto crashed ice, extracted twice with EtOAc, the organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Thereby, 6.85 g of the title compound was isolated as reddish solid, sufficiently pure for the next step.

reactant | (4-amino-2,6-dimethyl-phenoxy)-acetic acid ethyl ester | 19.48 mmol, 4.35 g | C(C)OC(COC1=C(C=C(C=C1C)N)C)=O | C12H17NO3
reactant | di-tert-butyl dicarbonate | 5.103 g, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | (4-tert-Butoxycarbonylamino-2,6-dimethyl-phenoxy)-acetic acid ethyl ester | 6.85 g | C(C)OC(COC1=C(C=C(C=C1C)NC(=O)OC(C)(C)C)C)=O | C17H25NO5
